US06852713B2
Step 7A: (3,4-Dimethoxy-phenyl)-acetic acid benzyl ester
To a stirred mixture of commercially available 3,4-dimethoxyphenylacetic acid (100.0 g, 510 mmol) in anhydrous 1,2-dichloroethane (500 cm3) at ambient temperature under an atmosphere of dry nitrogen was added thionyl chloride (112 cm3, 1.53 mol) portionwise over 20 minutes. The resulting solution was heated to reflux for 16 hours. The brown solution was cooled to ambient temperature and the volatile fractions removed in vacuo. Residual thionyl chloride was removed by an azeotrope with toluene (3×200 cm3) to afford a crude brown oil. The crude oil was dissolved in anhydrous dichloromethane (400 cm3) and cooled to 0° C. in an ice bath. To the cooled solution was added triethylamine (75 cm3, 535 mmol) dropwise over 10 minutes followed by a solution of benzyl alcohol (50 cm3, 485 mmol) dissolved in anhydrous dichloromethane (200 cm3). The mixture was stirred for 20 hours and warmed to ambient temperature. Water was added to the mixture (700 cm3) and the aqueous extracted with dichloromethane (2×100 cm3). The combined dichloromethane extracts were dried over sodium sulfate, vacuum filtered and the filtrate volatile fractions removed in vacuo to afford a crude brown oil. The crude product was purified by column chromatography (silica, eluting with hexane-ethyl acetate 1:0 to 1:1) to afford the title compound as a pale yellow viscous oil (83.4 g, 57.2%) with a positive ion ESI (M−1H)+287.3.

reactant | 3,4-dimethoxyphenylacetic acid | 510 mmol, 100.0 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | thionyl chloride | 1.53 mol, 112 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 535 mmol, 75 cm3 | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 485 mmol, 50 cm3 | C(C1=CC=CC=C1)O | C7H8O
solvent | 1,2-dichloroethane | 500 cm3 | ClCCCl | C2H4Cl2
solvent | dichloromethane | 400 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (3,4-Dimethoxy-phenyl)-acetic acid benzyl ester | 83.4 g, 57.2% | C(C1=CC=CC=C1)OC(CC1=CC(=C(C=C1)OC)OC)=O | C17H18O4
